US07662830B2
3. 1-(5-Bromo-3-chloro-pyridin-2-yl)-3-(R)-methyl-piperazine
Heat a solution of 2,5-dibromo-3-chloro-pyridine (Chontech Inc.) (2.0 g) and (R)-2-methyl-piperazine (3.2 g, 31.9 mmol) in DMA at 130° C. for 16 h. Partition the reaction mixture between water and EtOAc. Wash the EtOAc layer with water (1×) and brine (1×), dry (Na2SO4) and concentrate under reduced pressure to give the title compound as a solid.

reactant | 2,5-dibromo-3-chloro-pyridine | 2.0 g | BrC1=NC=C(C=C1Cl)Br | C5H2Br2ClN
reactant | (R)-2-methyl-piperazine | 31.9 mmol, 3.2 g | C[C@H]1NCCNC1 | C5H12N2
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 1-(5-Bromo-3-chloro-pyridin-2-yl)-3-(R)-methyl-piperazine | BrC=1C=C(C(=NC1)N1C[C@H](NCC1)C)Cl | C10H13BrClN3
